US07687638B2
2′-Hydroxymethyl-3-methylamino-4-nitro-biphenyl-2-carbonitrile
6-Chloro-2-methylamino-3-nitro-benzonitrile (500 mg, 2.4 mmol), 2-hydroxymethyl-phenylboronic acid (466 mg, 3.1 mmol), and potassium carbonate (1.30 g, 6.1 mmol) were combined in DMA (10 mL) in a flask purged with nitrogen. Tris(dibenzylideneacetone)dipalladium(0) (108 mg, 0.12 mmol) and 2-dicyclohexylphosphino-2′-(N,N-dimethyl-amino)biphenyl (93 mg, 0.24 mmol) were added, and the reaction stirred at 68° C. under nitrogen for 16 h. The solution was diluted with EtOAc (50 mL), and washed with 1N HCl and brine. Organics were dried (MgSO4) and concentrated in vacuo. Purification by silica gel chromatography (2:1:1 hexanes/CHCl3/EtOAc) gave 550 mg (82%) of the title compound as an orange solid. 1H NMR (400 MHz, CDCl3): δ 8.49 (br s, 1H), 8.35 (d, 1H, J=8.8 Hz), 7.59 (d, 1H, J=7.6 Hz), 7.46 (td, 1H, J=7.6, 1.2 Hz), 7.40 (td, 1H, J=7.6, 1.2 Hz), 7.20 (dd, 1H, J=7.6, 1.2 Hz), 6.60 (d, 1H, J=8.8 Hz), 4.52 (qAB, 2H, J=31.6, 12.8 Hz), 3.46 (s, 3H). MS (ES) [m+H] calc'd for C15H13N3O3, 284; found 284.

reactant | 6-Chloro-2-methylamino-3-nitro-benzonitrile | 2.4 mmol, 500 mg | ClC1=CC=C(C(=C1C#N)NC)[N+](=O)[O-] | C8H6ClN3O2
reactant | 2-hydroxymethyl-phenylboronic acid | 3.1 mmol, 466 mg | OCC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 6.1 mmol, 1.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethyl-amino)biphenyl | 0.24 mmol, 93 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium(0) | 0.12 mmol, 108 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2′-Hydroxymethyl-3-methylamino-4-nitro-biphenyl-2-carbonitrile | 550 mg, 82% | OCC1=C(C=CC=C1)C=1C(=C(C(=CC1)[N+](=O)[O-])NC)C#N | C15H13N3O3
